US05580986
5-Amino-4-nitro-1-(4-bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole
8.3 g (0.052 mol) Bromine was added dropwise at room temperature to 13 g (0.047 mol) 5-amino-4-nitro-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole dissolved in 260 ml acetic acid and the mixture stirred for 30 minutes. It was then concentrated and the residue taken up in the ethyl acetate and shaken with 5% aqueous sodium hydrogen carbonate. The phases were separated and the organic phase dried over magnesium sulfate. This was concentrated and the residue purified by silica gel column chromatography (hexane/ethyl acetate 3:1).

reactant | Bromine | 0.052 mol, 8.3 g | BrBr | Br2
reactant | 5-amino-4-nitro-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole | 0.047 mol | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)[N+](=O)[O-] | C8H8F2N6O3
solvent | acetic acid | 260 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-4-nitro-1-(4-bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)pyrazole | NC1=C(C=NN1C1=NN(C(=C1Br)OC(F)F)C)[N+](=O)[O-] | C8H7BrF2N6O3
